US06670372B2
R 3-(4-Chloro-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-1-ol (1.0 g, 3.6 mmol) and methanolic ammonia (30 mL of 15%) were combined and then heated in a steel bomb at 150° C. The container was allowed to cool to ambient temperature. Excess methanolic potassium hydroxide was added to the reaction mixture which was then concentrated under reduced pressure to decrease the volume. Water was added and then concentration was continued until a solid formed. The solid was isolated by filtration, washed with water and then dried to provide a near white solid. This material was recrystallized from methanol/dichloromethane to provide R 3-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-1-ol as colorless solid, m.p. 258-261° C. Analysis: Calculated for C14H16N4O: %C, 65.61, %H, 6.29; %N, 21.86; Found: %C, 65.50, %H, 6.3, %N, 21.7.

reactant | 3-(4-Chloro-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-1-ol | 3.6 mmol, 1.0 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(CO)C | C14H14ClN3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | ammonia | 30 mL | N | H3N
product | 3-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-1-ol | NC1=NC=2C=CC=CC2C2=C1N=CN2CC(CO)C | C14H16N4O
